US06833378B2
N7-(1-Ethyl-propyl)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridine-2,7-diamine
The title compound was prepared by reacting N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine with BrCN in acetonitrile at room temperature overnight. The mixture was quenched with water and adjusted to pH 8.0 with saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give crude material. The material was purified through silica gel column chromatography to give the title compound as a brown solid, mp. 158-160° C.; Anal. For C21H29N5 ¼H2O calc. C, 70.85; H, 8.35; N, 19.67; found: C, 71.07; H, 8.30; N, 19.63.

reactant | N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H30N4
reactant | BrCN | BrC#N | CBrN
solvent | acetonitrile | C(C)#N | C2H3N
product | N7-(1-Ethyl-propyl)-5-methyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridine-2,7-diamine | C(C)C(CC)NC1=C2C(=NC(=C1)C)N(C(=N2)N)C2=C(C=C(C=C2C)C)C | C21H29N5
